US07282588B2
Preparation of N-{4-[1-ethyl-4-(1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-3-yl]phenyl}-1-pyrrolidinecarboxamide
A solution of 4-[1-ethyl-4-(1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-3-yl]aniline (0.26 mmol) in pyridine (1 mL) was treated with 1-pyrrolidinecarbonyl chloride (0.29 mmol). The reaction stirred for 18 h at room temperature and was then concentrated. Purification of the residue by Gilson reverse phase HPLC provided the title product as a white powder (52%). ESMS [M+H]+: 401.2

reactant | 4-[1-ethyl-4-(1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-3-yl]aniline | 0.26 mmol | C(C)N1N=C(C(=C1)C1=C2C(=NC=C1)NC=C2)C2=CC=C(N)C=C2 | C18H17N5
reactant | 1-pyrrolidinecarbonyl chloride | 0.29 mmol | N1(CCCC1)C(=O)Cl | C5H8ClNO
solvent | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
product | N-{4-[1-ethyl-4-(1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-3-yl]phenyl}-1-pyrrolidinecarboxamide | 52% | C(C)N1N=C(C(=C1)C1=C2C(=NC=C1)NC=C2)C2=CC=C(C=C2)NC(=O)N2CCCC2 | C23H24N6O
